US09388166B2
A solution of crude trifluoro-acetic acid 2-(4-tert-butoxycarbonyl-amino-2-nitro-phenyl)-1-(4-iodo-2-methoxy-pyridin-3-yl)-ethyl ester (crude 1.88 g, 3.08 mmol) in THF (10 mL) was added 8-diazabicyclo[5.4.0]undec-7-ene (1.33 g, 8.74 mmol) at 25° C. The reaction was allowed to stir at 70° C. for 3 hours. The reaction mixture was cooled to 25° C., and poured into water. The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were washed with brine and dried over magnesium sulfate. Filtration followed by concentration in vacuo gave a brown solid. Flash chromatography (80/20 hexanes/ethyl acetate) afforded {4-[(E)-2-(4-iodo-2-methoxy-pyridin-3-yl)-vinyl]-3-nitro-phenyl}-carbamic acid tert-butyl ester (850 mg, 55%) as an oil. MH+ 497.9.

reactant | trifluoro-acetic acid 2-(4-tert-butoxycarbonyl-amino-2-nitro-phenyl)-1-(4-iodo-2-methoxy-pyridin-3-yl)-ethyl ester | C(C)(C)(C)OC(=O)C1=C(C(=C(C=C1)CC(C=1C(=NC=CC1I)OC)OC(C(F)(F)F)=O)[N+](=O)[O-])N | C21H21F3IN3O7
reactant | water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | {4-[(E)-2-(4-iodo-2-methoxy-pyridin-3-yl)-vinyl]-3-nitro-phenyl}-carbamic acid tert-butyl ester | 850 mg, 55% | C(C)(C)(C)OC(NC1=CC(=C(C=C1)\C=C\C=1C(=NC=CC1I)OC)[N+](=O)[O-])=O | C19H20IN3O5
